US05292767
To a stirred solution of diethyl 2,5-dibromoadipate (4.5 g) in dimethylformamide (15 ml), sodium sulfide enneahydrate (3.9 g) was added under nitrogen atmosphere and the mixture was stirred for 5 hours under ice-cooling. To the reaction mixture, diethyl ether and water were added. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 2.1 g (72%) of 2,5-diethoxycarbonyltetrahydrothiophene.

reactant | diethyl 2,5-dibromoadipate | 4.5 g | BrC(C(=O)OCC)CCC(C(=O)OCC)Br | C10H16Br2O4
reactant | sodium sulfide enneahydrate | 3.9 g | O.O.O.O.O.O.O.O.O.[Na+].[Na+].[SH-]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2,5-diethoxycarbonyltetrahydrothiophene | 2.1 g, 72% | C(C)OC(=O)C1SC(CC1)C(=O)OCC | C10H16O4S
